Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
haloperidol
 
Attending: ___.
 
Chief Complaint:
Not eating for 2 weeks - inability to care for self
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ is a ___ yo F w/ PMHx of PCOS, anemia, PPHx of
schizophrenia, PTSD, "borderline MR", w/ unclear medication
compliance, multiple psychiatric hospitalizations, who presented
to the ___ ED with her sister in the setting of concerns about
ability for self-care in the midst of her mother (also diagnosed
with schizophrenia) refusing to let the patient and her sister
eat any food as a "Sacrifice to God".

Per Dr. ___ ___ ED Initial Psychiatry
Consult note:

"Ms. ___ is a ___ yo woman with hx of schizophrenia with 
unclear
medication compliance and no current outpatient provider.
Currently her sister with developmental delays has been
hospitalized at ___, with this patient visiting sister, and it
was revealed that the mother has been withholding food from this
pt and her sister as "sacrifice for God." While sister was in
hospital, pt ordered food from hospital cafeteria and was
observed to be extremely hungry. Pt brought to ED with SW given
these concerns. Denied SI/HI. Psychiatry consulted for safety
assessment and potential inability to care for self.

Mother is noted to have poorly treated schizophrenia and SW is
already evaluating the home environment; per ___ BEST team has
already been called to evaluate mother in home today. Of note,
sister got discharged to respite today with pursuit of guardian
for sister given that providers did not believe that home
environment would be safe for her in this context. 

When asked why they are in the ED, the patient reports "I was
going home and told them I've been awhile without any 
nutritional
food." She does report "sneaking" food occasionally when she can
but "we haven't had any food for 15 days." She notes her sister
recently got diarrhea from lack of nutritional intake. She 
states
that the lack of food is because "my mother...she's a good
person.. but she has schizophrenia... she's been ___
since I've been ___ years old and believes God doesn't want us to
have food. This is the second time. The last was in ___ for
about 9 days. This time it's about 15 days, or maybe 13 days, 
I'm
not sure, about that long."

When asked about her own medical history, the patient states
"they are kinda confused about my diagnosis, they don't know if 
I
have schizophrenia." Clarifies that she saw a psychiatrist ___
years ago but that they said "I don't need to go anymore because
there are people worse off, that the hospital is for people who
are really sick." She states that she had psychiatric admission
at age ___, for 2 weeks and was told at that time a diagnosis of
paranoid schizophrenia. She is unable to describe her sxs back
then but states that at that she "doing what I read in the
book... it wasn't a realistic book, it was a fiction book, I
don't remember what it told me do." Details are otherwise
unclear.

She also states she has been told she has PTSD. When asked if
this feels accurate, she states "well sometimes I write down my
thougthts and feel scared about things, for some people this is
becuase something bad happened to them in the past." When asked
if something bad happened to the pt, she states "well ___ but I
brought it on myself I was a disobedient teenager, things I
brought on, I have a mother who told me my do's and my don't's
and I didn't always listen." But then "I didn't say she did
anything to me, she didn't do nothin." When asked again about
"bad things," she states "well ___ one time ___ molested me
when I was ___, he was ___ years older then me, sometimes I still
think about it."

She states she takes 10 mg Zyprexa at nighttime. Pharmacy
___. This is from Dr. ___ at ___ who is 
a
PCP. Patient states she is happy with PCP ___. Last saw a
pscyhiatrist "years ago," approx ___ years ago. 

Regarding medication trials, she notes a trial of Ativan but it
"made me nervous and sick and nauseated." She then states "one
time in the hospital they gave me Depakote, I tried Seroquel and
Clozaril." States Clozaril was "years ago" when she was ___.
States she stopped taking Clozaril because "I was tired of
getting my blood drawn, I stoped a long time ago, like when I 
was
___. She also notes Haldol and Geodon "made her stiff." States
Geodon also "made her heart feel funny." However, when asked
later about allergies, pt firmly denies having any drug 
allergies
or any allergies other than seasonal allergies.

When asked about AVH, she states "sometimes." Unclear timeline
when this last happens, states "I don't keep up with that" but
"it's happened before." Repeat questioning remains unclear.
Denies current AVH during this encounter.

When asked about mood, she states "good because today I read in 
a
magazine your mood can be bad because of a lack of vitamins so I
felt good about that knowing that mood can be fixed." She states
her mood "fluctuates" depending on what happens in the day.

Denies SI. Denies HI.

When asked how we can help, states "a social worker was going to
give me a paper on how to get a hot meal."

In the ED, the patient remained in good behavioral control and
did not require physical or chemical restraints (but did receive
Zyprexa 5 mg po and Ativan 1 mg po for pacing about, being
anxious).

On interview today, states "you can't do nothing to help me, I'm
not trying to be ignorant, but I can help myself". Wants to be
discharged ASAP. Would rather be back home. Knows she will feel
more depressed being "locked up", and "it'll be harder when I 
get
back outside if I've been here". Wants to know how SW/BEST
examination of her mother's house went.

Patient reports that she was sneaking food for herself and was
not worried about feeding herself, but was more concerned about
her little sister. Would try to sneak food for her little sister
but was concerned that if mother found out, there would be an
issue. Denies however that she ever feels unsafe or concerned 
for
her safety at home. States that she wants to be respectful to 
her
mother as per the Bible, but that it can be difficult at times
due to her mother's illness (schizophrenia), that it can be hard
to have a reasonable conversation with her.

Promised her cousin that she would be at his wedding on ___.
Wedding is "way out somewhere in ___, "I ___ catch the
commuter rail". Is unsure how she is going to get there, her
favorite cousin ___ is coming to get her to take her the
wedding. Would feel extremely terrible and "I would be severely
depressed" if she can't make it to the wedding. Just wants to 
get
papers from ___ for getting hot meals when she is hungry.

Currently denies feeling like anyone is out to get here or
feeling unsafe. Denies thought broadcasting/insertion, ideas of
reference. Denies AVH.

Mood is "good", but being here "makes me depressed". Enjoys
journalism, reading, writing, arts, likes to cook; has been
enjoying these things recently. Denies appetite weight change;
states she feels she has gained weight. Denies sleeping issues.
Denies psychomotor agitation/retardation. Endorses baseline
fatigue from anemia (denies recent change). Denies
worthlessness/guilt. Denies difficulties with concentration.
Denies feeling hopeless. Denies SI, or wishing she was dead.

 
Past Medical History:
PAST PSYCHIATRIC HISTORY:
[Extracted from Dr. ___ ___ ED Initial 
Psychiatry
Consult note, reviewed with patient, and updated as 
appropriate.]
-Past diagnoses:
     -Paranoid schizophrenia when ___ yo (but "they said they're
not sure"), Dr. ___ at ___ last seen in ___
     -PTSD
-Hospitalizations:
     -Multiple, approximately 5 admissions but "years ago"
     -Haven't had psych hospitalization since ___ @ ___
-Psychiatrist:
     -Dr. ___ at ___ (___)
-Therapist:
     -Denies
-Medication and ECT trials:.
     -Ativan "made me nervous and sick and nauseated"
     -Clozaril "years ago" when she was ___; stopped taking it 
b/c
"I was tired of getting my blood drawn, I stopped a long time
ago, like when I was ___"
     -Haldol and Geodon "made her stiff"; Geodon also made her
"heart feel funny"
     -Depakote
     -Seroquel
     -Risperidone
     -Lurasidone
-Self-injury/Suicide attempts:
     -"I did it one time but I was scared, that was ___ years 
ago.
I was scared because I knocked down a lamp. So I took a thing 
and
I cut myself. But that was many, many years ago."
     -Denies SAs
-Harm to others:
     -Denies
-Trauma:
     -"This ___ tried to rape me when I was ___"; states she does
not want to talk about it at this time

PAST MEDICAL HISTORY:
-PCOS diagnosed in ___, states she is not taking meds for it
-Chronic anemia
-Tooth extraction for PSHx
-PCP:
     -___, MD 
-___ history of head trauma, seizure
 
Social History:
-B/R:
     -___
     -Raised in ___
-Family:
     -Mother, sister
-Relationship status:
     -Denies
-Primary supports:
     -Mother and sister
-___: 
     -Lives in a townhouse with mother and sister
-Education:
     -High school
-Employment/income:
     -"Haven't had a job in many years, just haven't"
     -Endorses difficulty focusing on jobs (vague, per SW notes,
does not currently work due to being a caretaker for her sister)
     -Worked at a daycare when she was ___ yo as last job
-Spiritual:
     -___
-Access to weapons:
     -Denies
-Military history:
___
Family History:
-Fam Dx:
     -Mother: ___
     -___ ran through the family" (per grandmother
telling mother)
     -Father of MGM: ___
     -MGF: Alcohol use disorder
-Fam Hospitalizations:
     -Father and aunt for schizophrenia
-Fam Treatment Hx/Med Trials:
     -States most of her family had to be on medications
-Fam Hx Suicide:
     -Denies
 
Physical Exam:
Vital Signs:
-T 98.6, BP 98/53, HR 82, RR , SpO2 97%RA 

General:
-HEENT: 
     -Normocephalic, atraumatic
     -Moist mucous membranes, oropharynx clear, supple neck
     -No scleral icterus
-Cardiovascular: 
     -Regular rate and rhythm, S1/S2 heard, no
murmurs/rubs/gallops
     -Distal pulses ___ throughout
-Pulmonary: 
     -No increased work of breathing
     -Lungs clear to auscultation bilaterally
     -No wheezes/rhonchi/rales
-Abdominal: 
     -Non-distended, bowel sounds normoactive
     -No tenderness to palpation in all quadrants
     -No guarding, no rebound tenderness
-Extremities: 
     -Warm and well-perfused
     -No edema of the limbs
-Skin: 
     -No rashes or lesions noted

Neurological:
-Cranial Nerves:
     -I: Olfaction not tested
     -II: PERRL 3 to 2 mm, both directly and consentually; brisk
bilaterally, VFF to confrontation
     -III, IV, VI: EOMI without nystagmus
     -V: Facial sensation intact to light touch in all
distributions
     -VII: No facial droop, facial musculature symmetric and ___
strength in upper and lower distributions, bilaterally
     -VIII: Hearing intact to finger rub bilaterally
     -IX, X: Palate elevates symmetrically
     -XI: ___ strength in trapezii and SCM bilaterally
     -XII: Tongue protrudes in midline
-Motor: 
     -Normal bulk and tone bilaterally
     -No abnormal movements, no tremor
     -Strength ___ throughout
-Sensory: 
     -No deficits to fine touch throughout
-DTRs: 
     -2 and symmetrical throughout
-Coordination: 
     -Normal on finger to nose test, no intention tremor noted
-Gait: 
     -Good initiation
     -Narrow-based, normal stride and arm swing
     -Able to walk in tandem without difficulty
     -Romberg absent

Cognition: 
-Wakefulness/alertness: 
     -Awake and alert
-Attention: 
     -MOYb with 0 errors
-Orientation: 
     -Oriented to person, time, place, situation
-Executive function (go-no go, Luria, trails, FAS): 
     -Not tested
-Memory: 
     -___ registration
     -___ spontaneous recall after 5 min
     -___ with categorical cues
     -Long-term grossly intact
-Fund of knowledge: 
     -Consistent with education
     -Intact to last 2 presidents
-Calculations: 
     -$1.75 = 7 quarters
-Abstraction: 
     -"Don't judge a book by its cover" = "If you don't know
somebody, don't judge them"
     -Orange and apple = fruit, bicycle and train = something to
ride on
-Visuospatial: 
     -Not assessed
-Language: 
     -Native ___ speaker, no paraphasic errors, appropriate
to conversation

Mental Status:
-Appearance: 
     -___ yo ___ F appearing younger than stated 
age,
adequately groomed but mildly malodorous, wearing a beanie,
fleece vest, jacket, and jeans, appears tired, appears well
hydrated and nourished, in no apparent 
-Behavior: 
     -Sitting in chair initially found in the Day Room eating
pizza with over 10 empty boxes of pizza slices lying about her,
intermittent eye contact but intense when made, psychomotor
retardation notable for lag in responding to speeches, slowed
motions when making eye contact
-Attitude: 
     -Superficially cooperative, not very engaged, mildly
irritable
-Mood: 
     -"Good, but being here will make me depressed."
-Affect: 
     -Hypothymic, blunted, nonreactive to topic
-Speech: 
     -Normal rate but has initiation lag when answering
questions, volume, and flat tone
-Thought process: 
     -Linear, coherent, goal-oriented, no loose associations
-Thought Content:
     - Safety: Denies SI/HI   
     - Delusions: No evidence of paranoia, etc. 
     - Obsessions/Compulsions: No evidence based on current
encounter
     - Hallucinations: Denies AVH, not appearing to be attending
to internal stimuli
-Insight: Limited
-Judgment: Poor
 
Pertinent Results:
___ 10:53PM   %HbA1c-5.3 eAG-105
___ 08:00PM URINE  HOURS-RANDOM
___ 08:00PM URINE  UCG-NEGATIVE
___ 08:00PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 08:00PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 08:00PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR* 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-SM*
___ 08:00PM URINE  RBC-<1 WBC-4 BACTERIA-NONE YEAST-NONE 
EPI-3
___ 08:00PM URINE  MUCOUS-RARE*
___ 07:30PM   GLUCOSE-91 UREA N-16 CREAT-0.7 SODIUM-143 
POTASSIUM-3.8 CHLORIDE-103 TOTAL CO2-26 ANION GAP-14
___ 07:30PM   estGFR-Using this
___ 07:30PM   ALT(SGPT)-14 AST(SGOT)-16 ALK PHOS-25* TOT 
BILI-0.3
___ 07:30PM   CHOLEST-173
___ 07:30PM   VIT B12-1010* FOLATE-7
___ 07:30PM   TRIGLYCER-94 HDL CHOL-80 CHOL/HDL-2.2 
LDL(CALC)-74
___ 07:30PM   TSH-2.4
___ 07:30PM   25OH VitD-49
___ 07:30PM   HCG-<5
___ 07:30PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 07:30PM   WBC-5.0 RBC-3.16* HGB-9.6* HCT-30.5* MCV-97 
MCH-30.4 MCHC-31.5* RDW-14.3 RDWSD-50.4*
___ 07:30PM   NEUTS-46.6 ___ MONOS-9.0 EOS-0.4* 
BASOS-0.2 IM ___ AbsNeut-2.34 AbsLymp-2.19 AbsMono-0.45 
AbsEos-0.02* AbsBaso-0.01
___ 07:30PM   PLT COUNT-___. LEGAL and SAFETY:
On admission on ___, the patient refused to sign a 
conditional voluntary agreement and was admitted on a ___, which expired on ___. At that time the patient signed a 
conditional voluntary agreement. She was also placed on 15 
minute checks status on admission and remained on that level of 
observation throughout while being unit restricted. She was 
initially placed on red sharps but advanced to green sharps on 
___ and remained on this level until discharge.
.
.
2. PSYCHIATRIC:
#Schizophrenia
Patient presented to the hospital with her sister, describing 15 
days without eating because her mother was not buying food for 
the family secondary to a belief that the family should not eat 
as a sacrifice to God (mother reportedly has a history of 
untreated schizophrenia). Patient was also observed to be 
somewhat disorganized and there was concern about ability to 
care for self. Through the admission, the patient denies any 
symptoms including auditory and visual hallucinations, depressed 
mood, anxiety. She also did not appear to have any delusions or 
paranoia. Her affect was quite blunted, but thought process was 
largely linear and goal oriented.
.
Her presentation was unlikely representative of an acute 
decompensation of underlying psychotic illness, but more in-line 
with negative symptoms of a longstanding history of 
schizophrenia.

Dr. ___ spoke w pt's PCP ___ ___. Per report of pts PCP, 
___ appears close to her baseline. PCP expressed concern that 
prolonged psychiatric hospitalization can be destabilizing for 
pt.
Case was discussed during the multidisciplinary team meeting.
In personal interview on the discharge day, Ms. ___ denied any 
new complains. She
denied physical complains. Denied pain/N/V/D/C/fever/chills. She 
admitted feeling apprehensive about going home. She suspects 
that her mother is not buying food.
However, ___ said that she will buy food on  her own. She 
also said that she has a cell phone. She knows that she will 
call ___ if she needs to.
.
She was continued on her outpatient medication regimen of 
Olanzapine 10mg QHS. She tolerated this well during her 
admission. She was also prescribed Lorazepam 1mg BID:PRN for 
anxiety or agitation, which was not utilized during her 
admission. 
.

On the discharge day:
--Mental Status:
  -Appearance: ___ year old ___ woman, thin
appearing, purple cloth tied around her head, wearing home 
purple
long sleeve shirt, appears slightly unkempt with facial hair.
  -Behavior: she gets up and walks during interview, makes 
intermittent
eye contact while walking
  -Attitude: cooperative and pleasant, easily engaged
  -Mood and Affect: "good"; less blunted affect today- more
bright, smiling often
  -Speech: normal rate, rhythm, and prosody
  -Thought process: mostly linear and goal oriented; slightly
tangential at times
  -Thought Content: Denied SI/HI, no clear evidence of paranoia 
or delusions, no obvious obsessions or compulsions, denies AVH 
and not appearing to be attending to
internal stimuli during this interview
  -Judgment and Insight: fair/fair
Ms. ___ reflected upon her hospital admission. She said that 
"groups and project classes helped". She reported that she is 
"feeling real good now".
She shared that she keeps her cell phone. She said that she 
would call ___ if she feels unsafe at home. She also shared that 
she received info about food pantries she could get food. She 
also shared that she has a cousin in ___ whom she could 
contact.

.
4. MEDICAL
#)Nutritional status
Patient reported poor PO intake for 15 days prior to 
presentation to hospital, stating she would sneak a small amount 
of food every couple of days. She denied any recent weight loss, 
reporting possible weight gain. Nutrition was consulted. Because 
patient had been consuming 100% meals since admission, she was 
determined to be low nutritional risk while in-house.
.
She was continued on outpatient supplements during her admission 
including:
-Calcium Carbonate 500 mg PO/NG DAILY 
-Vitamin D 400 UNIT PO/NG DAILY 
-Magnesium Oxide 400 mg PO/NG DAILY 
-Multivitamins 1 TAB PO DAILY 
.
#)Chronic anemia
Patient has known history of anemia. Her H/H on admission was 
9.6/30.5. She was continued on her outpatient medication of 
Ferrous GLUCONATE 324 mg PO DAILY. Patient tolerated this during 
admission, and endorsed taking the medication on an empty 
stomach to improve absorption. 
.
.
5. PSYCHOSOCIAL
#) GROUPS/MILIEU:
The patient was encouraged to participate in the various groups 
and milieu therapy
opportunities offered by the unit. The patient often attended 
these groups that
focused on teaching patients various coping skills. She was 
observed in group spaces often, social with peers in the milieu.
.
.
#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT:
Social work was in contact with ___, ___ 
investigator involved in the case of patient's family. Per note 
written by ___, "He noted her sister is in a 
DDS group home currently. he visited mom on ___ who was 
clearly emaciated and not eating but she refused D___ services. 
He encouraged her to call ___ if she began feeling unwell, she 
agreed.  ___ is willing to expedite a DMH ___ is 
willing to accept services.  He feels that mom is not eating and 
influences ___ and ___ sister. He feels the upcoming storm 
could pose a real danger to them as a result.  He reviewed 
records and it appears in ___ that ___ had an eval only and 
never engaged services and mom was approved but never responded.
.
.
RISK ASSESSMENT
On presentation, the patient was evaluated and felt to be at an 
increased risk of
harm to herself and/or others based upon reports of not eating 
for past 15 days in the setting of being influenced by mother 
with untreated schizophrenia, not supplying food for family 
based on delusions. Their static factors noted at that
time include history of chronic mental illness (schizophrenia) 
and history of trauma. The modifiable risk factors were also 
addressed at that time, including lack of outpatient mental 
health providers, unstable home environment, disorganized 
behavior. During the admission, patient agreed to ___ services, 
and application was completed. She also was compliant with 
medications, ate 3 meals a day, observed to have organized 
behavior and thought process. Finally, the patient is being 
discharged with many protective risk factors, help-seeking 
nature, future-oriented viewpoint, sense of responsibility to 
family, lack of suicidal ideation, no history of substance use 
disorder. Overall, based on the totality of our assessment at
this time, the patient is not at an acutely elevated risk of 
self-harm nor danger to
others.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Magnesium Oxide 400 mg PO DAILY 
2. Multivitamins 1 TAB PO DAILY 
3. Calcitrate (calcium citrate) 200 mg (950 mg) oral DAILY 
4. Vitamin D Dose is Unknown  PO DAILY 
5. Ferrex ___ (polysaccharide iron complex) 150 mg iron oral 
DAILY 
6. OLANZapine 20 mg PO HS ON MWFSAT 
7. OLANZapine 10 mg PO HS TUETHUR 

 
Discharge Medications:
1.  Vitamin D 400 UNIT PO DAILY  
2.  Calcitrate (calcium citrate) 200 mg (950 mg) oral DAILY  
3.  Ferrex ___ (polysaccharide iron complex) 150 mg iron oral 
DAILY  
4.  Magnesium Oxide 400 mg PO DAILY  
5.  Multivitamins 1 TAB PO DAILY  
6.  OLANZapine 10 mg PO HS  
RX *olanzapine 10 mg 1 tablet(s) by mouth every night Disp #*30 
Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Schizophrenia
 
Discharge Condition:
--Neurological:
  -station and gait: normal, fully ambulatory without assistance
  -tone and strength: did not perform confrontational testing;
moves all extremities spontaneously and equally against gravity,
no apparent deficits 
  -cranial nerves: CNs ___ grossly intact
  -abnormal movements: no tremor or adventitious movements

--Mental Status:
  -Appearance: ___ year old ___ woman, thin
appearing, purple cloth tied around her head, wearing casual 
home clothing, appears slightly unkempt with facial hair.
  -Behavior: walking the halls during interview, makes 
intermittent eye contact
  -Attitude: cooperative and pleasant, easily engaged
  -Mood and Affect: 'good'; blunted affect but occasionally 
reactive, smiling at times
  -Speech: normal rate, rhythm, and prosody
  -Thought process: mostly linear and goal oriented; slightly
tangential at times
  -Thought Content: denies SI/HI, stating she would never hurt 
herself or others; states she loves herself too much; no clear 
evidence of paranoia or delusions, no obvious obsessions or 
compulsions, denies AVH and not appearing to be attending to 
internal stimuli during this interview
  -Judgment and Insight: fair/fair

--Cognition:
  -Wakefulness/alertness: awake and alert
  -Orientation: oriented to person and place; grossly oriented 
to time
  -Attention: attends to interview appropriately 
  -Executive functioning: not assessed
  -Memory: intact to her own recent and remote personal history 
  -Fund of knowledge: question of some cognitive 
impairments/learning disability
  -Calculations: did not assess
  -Abstraction: did not assess
  -Visuospatial: did not assess
  -Language: fluent ___ speaker, speaks with an accent, 
overall appropriate during interview

 
Discharge Instructions:
You were hospitalized at ___ because you had not been eating 
regularly for two weeks.
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Please continue all medications as directed.
-Please avoid abusing alcohol and any drugs-- whether 
prescription drugs or illegal drugs-- as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any
concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.

The ___ team also referred you to Department of Mental Health 
for services
(___). They will be f/u with you for an assessment. If you 
___ hear from them
within 2 weeks of discharge, please contact them via the 
resources below:
- Phone: ___
- Email: ___
- Main Page: ___
 
Followup Instructions:
___